.inc CoilcraftTemplates.lib

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-682_freq port1 port2 PARAMS: Cpar=1.3pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=35
+ R2=0.059
+ C= {Cpar}
+ K1=0.00001
+ K2=0.8
+ K3= {Ind}
+ K4=0.001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5632.853538
.ends LPS8045B-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-682_imp port1 port2 PARAMS: Cpar=1.299pF Ind=6.8uH
X1 port1 port2 Model1D PARAMS:
+ R1=35
+ R2=0.059
+ C= {Cpar}
+ K1=0.00001
+ K2=0.8
+ K3= {Ind}
+ K4=0.001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5632.853538
.ends LPS8045B-682_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-103_freq port1 port2 PARAMS: Cpar=2.2pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=30
+ R2=0.073
+ C= {Cpar}
+ K1=0.0002
+ K2=1.7
+ K3= {Ind}
+ K4=0.05
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9319.180037
.ends LPS8045B-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-103_imp port1 port2 PARAMS: Cpar=2.136pF Ind=10uH
X1 port1 port2 Model1D PARAMS:
+ R1=30
+ R2=0.073
+ C= {Cpar}
+ K1=0.0002
+ K2=1.7
+ K3= {Ind}
+ K4=0.05
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=9319.180037
.ends LPS8045B-103_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-153_freq port1 port2 PARAMS: Cpar=3.6pF Ind=15uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=0.092
+ C= {Cpar}
+ K1=0.00015
+ K2=3
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13056.20079
.ends LPS8045B-153_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-153
* Inductance = 15uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-150MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-153_imp port1 port2 PARAMS: Cpar=3.6pF Ind=15uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.092
+ C= {Cpar}
+ K1=0.00015
+ K2=3
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=13056.20079
.ends LPS8045B-153_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-223_freq port1 port2 PARAMS: Cpar=5pF Ind=22uH
X1 port1 port2 Model1A PARAMS:
+ R1=15
+ R2=0.102
+ C= {Cpar}
+ K1=0.00035
+ K2=4.2
+ K3= {Ind}
+ K4=0.2
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15548.60629
.ends LPS8045B-223_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-223
* Inductance = 22uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-223_imp port1 port2 PARAMS: Cpar=4.773pF Ind=22uH
X1 port1 port2 Model1D PARAMS:
+ R1=15
+ R2=0.102
+ C= {Cpar}
+ K1=0.00035
+ K2=4.2
+ K3= {Ind}
+ K4=0.2
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15548.60629
.ends LPS8045B-223_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-333_freq port1 port2 PARAMS: Cpar=5.6pF Ind=33uH
X1 port1 port2 Model1A PARAMS:
+ R1=20
+ R2=0.121
+ C= {Cpar}
+ K1=0.00035
+ K2=4.8
+ K3= {Ind}
+ K4=0.17
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15576.00409
.ends LPS8045B-333_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-333
* Inductance = 33uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-333_imp port1 port2 PARAMS: Cpar=5.464pF Ind=33uH
X1 port1 port2 Model1D PARAMS:
+ R1=20
+ R2=0.121
+ C= {Cpar}
+ K1=0.00035
+ K2=4.8
+ K3= {Ind}
+ K4=0.17
+ K5=0.0000095
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=15576.00409
.ends LPS8045B-333_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-473_freq port1 port2 PARAMS: Cpar=6.5pF Ind=47uH
X1 port1 port2 Model1A PARAMS:
+ R1=7
+ R2=0.153
+ C= {Cpar}
+ K1=0.0013
+ K2=14
+ K3= {Ind}
+ K4=0.5
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=40036.41256
.ends LPS8045B-473_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-473
* Inductance = 47uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-473_imp port1 port2 PARAMS: Cpar=6.19pF Ind=47uH
X1 port1 port2 Model1D PARAMS:
+ R1=7
+ R2=0.153
+ C= {Cpar}
+ K1=0.0013
+ K2=14
+ K3= {Ind}
+ K4=0.5
+ K5=0.0000097
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=40036.41256
.ends LPS8045B-473_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-683_freq port1 port2 PARAMS: Cpar=5.2pF Ind=68uH
X1 port1 port2 Model1A PARAMS:
+ R1=8
+ R2=0.193
+ C= {Cpar}
+ K1=0.000001
+ K2=12.5
+ K3= {Ind}
+ K4=0.15
+ K5=0.0000088
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=35649.93556
.ends LPS8045B-683_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-683
* Inductance = 68uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-683_imp port1 port2 PARAMS: Cpar=5.151pF Ind=68uH
X1 port1 port2 Model1D PARAMS:
+ R1=8
+ R2=0.193
+ C= {Cpar}
+ K1=0.000001
+ K2=12.5
+ K3= {Ind}
+ K4=0.15
+ K5=0.0000088
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=35649.93556
.ends LPS8045B-683_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-104_freq port1 port2 PARAMS: Cpar=5.8pF Ind=100uH
X1 port1 port2 Model1A PARAMS:
+ R1=7.5
+ R2=0.297
+ C= {Cpar}
+ K1=0.0014
+ K2=20.2
+ K3= {Ind}
+ K4=0.02
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=50257.40842
.ends LPS8045B-104_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-104
* Inductance = 100uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-104_imp port1 port2 PARAMS: Cpar=5.795pF Ind=100uH
X1 port1 port2 Model1D PARAMS:
+ R1=7.5
+ R2=0.297
+ C= {Cpar}
+ K1=0.0014
+ K2=20.2
+ K3= {Ind}
+ K4=0.02
+ K5=0.000009
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=50257.40842
.ends LPS8045B-104_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-154_freq port1 port2 PARAMS: Cpar=7pF Ind=150uH
X1 port1 port2 Model1A PARAMS:
+ R1=6
+ R2=0.379
+ C= {Cpar}
+ K1=0.0031
+ K2=36
+ K3= {Ind}
+ K4=0.025
+ K5=0.000025
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=76147.32608
.ends LPS8045B-154_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-154
* Inductance = 150uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-154_imp port1 port2 PARAMS: Cpar=6.994pF Ind=150uH
X1 port1 port2 Model1D PARAMS:
+ R1=6
+ R2=0.379
+ C= {Cpar}
+ K1=0.0031
+ K2=36
+ K3= {Ind}
+ K4=0.025
+ K5=0.000025
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=76147.32608
.ends LPS8045B-154_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-224_freq port1 port2 PARAMS: Cpar=8.5pF Ind=220uH
X1 port1 port2 Model1A PARAMS:
+ R1=7.5
+ R2=0.564
+ C= {Cpar}
+ K1=0.0064
+ K2=75
+ K3= {Ind}
+ K4=0.1
+ K5=0.00003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=129662.0361
.ends LPS8045B-224_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-224
* Inductance = 220uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-50MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-224_imp port1 port2 PARAMS: Cpar=8.482pF Ind=220uH
X1 port1 port2 Model1D PARAMS:
+ R1=7.5
+ R2=0.564
+ C= {Cpar}
+ K1=0.0064
+ K2=75
+ K3= {Ind}
+ K4=0.1
+ K5=0.00003
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=129662.0361
.ends LPS8045B-224_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-25MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-334_freq port1 port2 PARAMS: Cpar=8.2pF Ind=330uH
X1 port1 port2 Model1A PARAMS:
+ R1=9
+ R2=0.834
+ C= {Cpar}
+ K1=0.0065
+ K2=70
+ K3= {Ind}
+ K4=0.11
+ K5=0.0001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=115333.5474
.ends LPS8045B-334_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-334
* Inductance = 330uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-25MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-334_imp port1 port2 PARAMS: Cpar=8.184pF Ind=330uH
X1 port1 port2 Model1D PARAMS:
+ R1=9
+ R2=0.834
+ C= {Cpar}
+ K1=0.0065
+ K2=70
+ K3= {Ind}
+ K4=0.11
+ K5=0.0001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=115333.5474
.ends LPS8045B-334_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-474
* Inductance = 470uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-25MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-474_freq port1 port2 PARAMS: Cpar=7.6pF Ind=470uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=1.28
+ C= {Cpar}
+ K1=0.0065
+ K2=100
+ K3= {Ind}
+ K4=0.12
+ K5=0.001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=154826.9242
.ends LPS8045B-474_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-474
* Inductance = 470uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-25MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-474_imp port1 port2 PARAMS: Cpar=7.585pF Ind=470uH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=1.28
+ C= {Cpar}
+ K1=0.0065
+ K2=100
+ K3= {Ind}
+ K4=0.12
+ K5=0.001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=154826.9242
.ends LPS8045B-474_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-684
* Inductance = 680uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-684_freq port1 port2 PARAMS: Cpar=9.8pF Ind=680uH
X1 port1 port2 Model1A PARAMS:
+ R1=14
+ R2=1.88
+ C= {Cpar}
+ K1=0.000001
+ K2=125
+ K3= {Ind}
+ K4=0.45
+ K5=0.0004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=168755.0504
.ends LPS8045B-684_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-684
* Inductance = 680uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-684_imp port1 port2 PARAMS: Cpar=9.757pF Ind=680uH
X1 port1 port2 Model1D PARAMS:
+ R1=14
+ R2=1.88
+ C= {Cpar}
+ K1=0.000001
+ K2=125
+ K3= {Ind}
+ K4=0.45
+ K5=0.0004
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=168755.0504
.ends LPS8045B-684_imp

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-105
* Inductance = 1000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt LPS8045B-105_freq port1 port2 PARAMS: Cpar=10pF Ind=1000uH
X1 port1 port2 Model1A PARAMS:
+ R1=10
+ R2=2.92
+ C= {Cpar}
+ K1=0.000001
+ K2=200
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=246105.8909
.ends LPS8045B-105_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : LPS8045B-105
* Inductance = 1000uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-10MHz
*   Ambient Temperature = 25 degC
*   Inductor Impedance Model
*   Use model for Time Domain simulations
*======================================================================
.subckt LPS8045B-105_imp port1 port2 PARAMS: Cpar=10pF Ind=1000uH
X1 port1 port2 Model1D PARAMS:
+ R1=10
+ R2=2.92
+ C= {Cpar}
+ K1=0.000001
+ K2=200
+ K3= {Ind}
+ K4=0.000001
+ K5=0.000001
+ L=0
+ Is=0
+ a=0
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=246105.8909
.ends LPS8045B-105_imp

